US08080566B1
A 250-mL 3-necked round-bottomed flask was charged with a solution of tert-butyl 3-(trifluoromethylsulfonyloxy)-5,6-dihydropyridine-1(2H)-carboxylate (5.0 g, 15.11 mmol, 1.00 equiv) in toluene (100 mL), a solution of 1-benzyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (4.29 g, 15.11 mmol, 1.00 equiv) in ethanol (100 mL), triethylamine (4.58 g, 45.35 mmol, 3.00 equiv), Pd(PPh3)4 (345 mg, 0.30 mmol, 0.01 equiv) and water (30 mL). The resulting mixture was heated to reflux for 3 hours. Upon completion, the mixture was diluted with water (100 mL). Then, it was extracted with ethyl acetate (3×200 mL). Combined organic layers were dried over anhydrous sodium sulfate and concentrated on a rotary evaporator. The residue was purified by silica gel column chromatography eluted with ethyl acetate/petroleum ether (1:5) affording tert-butyl 3-(1-benzyl-1H-pyrazol-4-yl)-5,6-dihydropyridine-1(2H)-carboxylate as yellow oil (5.0 g, 98%).

reactant | tert-butyl 3-(trifluoromethylsulfonyloxy)-5,6-dihydropyridine-1(2H)-carboxylate | 15.11 mmol, 5.0 g, 1.00 equiv | FC(S(=O)(=O)OC=1CN(CCC1)C(=O)OC(C)(C)C)(F)F | C11H16F3NO5S
reactant | 1-benzyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 15.11 mmol, 4.29 g, 1.00 equiv | C(C1=CC=CC=C1)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C16H21BN2O2
reactant | triethylamine | 45.35 mmol, 4.58 g, 3.00 equiv | C(C)N(CC)CC | C6H15N
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | water | 100 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.30 mmol, 345 mg, 0.01 equiv | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 30 mL | O | H2O
product | tert-butyl 3-(1-benzyl-1H-pyrazol-4-yl)-5,6-dihydropyridine-1(2H)-carboxylate | 5.0 g, 98% | C(C1=CC=CC=C1)N1N=CC(=C1)C=1CN(CCC1)C(=O)OC(C)(C)C | C20H25N3O2
